US05571810
A mixture of 5-(bromoacetyl)-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (2 g) and thiourea (0.61 g) in ethanol (80 ml) was refluxed for 30 minutes. The mixture was dissolved in chloroform, washed with an aqueous solution of sodium bicarbonate and water, dried, and concentrated. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and acetone (10:1) to give pale yellow crystals to 5-(2-amino-4-thiazolyl)-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (0.62 g).

reactant | 5-(bromoacetyl)-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 2 g | BrCC(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H14BrFO3S2
reactant | thiourea | 0.61 g | NC(=S)N | CH4N2S
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-amino-4-thiazolyl)-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 0.62 g | NC=1SC=C(N1)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C20H15FN2O2S3
